Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
AMS 
 
Major Surgical or Invasive Procedure:
intubation
 
History of Present Illness:
 ___ with unknown PMHx, had ?syncopal event while at bar in 
___ which was witnessed (fell from stool in tavern). EMS 
called, he was agonal at scene, he was intubated in the field 
for airway protection.  No pulselessness or shocks. EMS ECG was 
c/f STEMI.  He was taken to ___ - ECG there was not ischemic.  
Bedside u/s negative for obvious wall-motion abnormality.  CT 
head and CT c-spine were negative at ___.  Labs at ___ were 
notable for lactate of 2.9, negative u/a and negative troponins. 
 He was given 2mg IV Ativan, propofol and fentanyl and 1L NS at 
___.  He was started on cooling protocol at ___ and sent to 
___ d/t c/f STEMI.

In the ED, initial vitals: Temp: <96, Pulse: 73, RR: 12, BP: 
125/88, MAP: 100.3 mm Hg, O2 sat: 100, O2 flow: (Intubation)
-initial labs: WBC 6.9, Hgb/Hct 14.1/42.7, INR 1.1, negative 
u/a, lactate 2.4, BUN/Cr ___, negative troponin, tox screen 
+EtOH, ABG 7.29 | 52 | 274.
- ECG: 1mm STE in v3-v5
- patient noted to be moving all extremities when sedation 
weaned, thus cooling discontinued.
- Patient was given 1L NS in ED.

On arrival to the MICU, T94.1, HR 83, BP 136/94, RR 21, 100% on 
CMV.  Patient was intubated and sedated.
  
Review of systems: Unable to obtain.
 
Past Medical History:
alcohol use, binge drinker
History of illicit drug use
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: T94.1, HR 83, BP 136/94, RR 21, 100% on CMV
GENERAL: Intubated / sedated
HEENT: NC/AT, sclera anicteric, PEERL, ET tube in place
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No rashes or excoriations  
NEURO: Intubated / sedated, PERRL, moving all extremities with 
sedation weaned

ON DISCHARGE:
VITALS: 97.4 131/66 73 18 100%RA
GENERAL: AAOx3, slurring speech improving 
HEENT - normocephalic, atraumatic,  
CARDIAC: RRR, no m/r/g
PULMONARY: CTAB without crackles, wheezing or rhonchi 
ABDOMEN: +BS, NT/ND  
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
SKIN: Without rash.  
NEUROLOGIC: Grossly non-focal, moves all extremities, is able to 
say days of week backwards, no nystagmus, no peripheral 
neuropathy
 
Pertinent Results:
ADMISSION LABS
___ 02:16AM BLOOD WBC-6.9 RBC-4.45* Hgb-14.1 Hct-42.7 
MCV-96 MCH-31.7 MCHC-33.0 RDW-14.3 RDWSD-50.4* Plt ___
___ 02:16AM BLOOD Glucose-96 UreaN-14 Creat-0.6 Na-134 
K-4.0 Cl-96 HCO3-21* AnGap-21*
___ 02:16AM BLOOD ___ PTT-21.7* ___
___ 07:45AM BLOOD ALT-35 AST-31 AlkPhos-48 TotBili-0.3
___ 02:16AM BLOOD cTropnT-<0.01
___ 07:45AM BLOOD CK-MB-7 cTropnT-<0.01
___ 02:45PM BLOOD CK-MB-6 cTropnT-<0.01
___ 02:16AM BLOOD Calcium-8.4 Phos-3.9 Mg-2.2
___ 02:16AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:12AM BLOOD Lactate-2.4*
___ 02:12AM BLOOD Type-ART pO2-274* pCO2-52* pH-7.29* 
calTCO2-26 Base XS--1

DISCHARGE LABS:
___ 07:50AM BLOOD WBC-7.9 RBC-4.74 Hgb-14.8 Hct-45.7 MCV-96 
MCH-31.2 MCHC-32.4 RDW-14.0 RDWSD-49.9* Plt ___
___ 07:50AM BLOOD Glucose-99 UreaN-23* Creat-0.8 Na-140 
K-4.7 Cl-101 HCO3-28 AnGap-16
___ 07:50AM BLOOD Calcium-10.0 Phos-4.1 Mg-2.2

OTHER LABS:
___ 06:20AM BLOOD VitB12-343
___ 07:15AM BLOOD HDL-53 CHOL/HD-4.3 LDLmeas-150*
___ 06:20AM BLOOD TSH-0.97

MICROBIOLOGY:
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

IMAGING:
___ CXR: Since the prior chest radiograph of 2 days 
earlier, the patient has been extubated.  Lungs are 
well-expanded and clear with no findings to suggest acute 
aspiration or aspiration pneumonia 

___ CT HEAD W/O CONTRAST: Small amount of hemorrhage in the 
left posterior perimesencephalic cistern.  This may be a 
consequence of recent trauma.  Consider follow-up CT to exclude 
further hemorrhage.  The study is otherwise normal. 

___ TTE IMPRESSION: Low normal global left ventricular 
systolic function. Mildly dilated ascending aorta. No clinically 
significant valvular disease. Normal pulmonary artery systolic 
pressure.  
 
Brief Hospital Course:
___ yoM with history of alcohol abuse who was found down after 
drinking alcohol, transferred from outside hospital intubated, 
sedated and cooled without clear evidence of ischemia or 
pulselessness, who was transferred to the medical floor from the 
ICU for further management. Overall, his presentation was 
thought to be most consistent with alcohol intoxication. His 
serum ethanol level was 128, troponins were negative x3, he was 
not orthostatic, and had no clinical evidence of infection. 
However, given EKG showing ~1mm STE in leads V3-V5, TTE was 
performed to rule out myocardial infarction. TTE showed 
low-normal global systolic function without wall motion 
abnormalities, making MI unlikely. Lipid panel did show 
hyperlipidemia and he was started on rosuvastatin, later 
switched to losuvastatin given coverage by ___. 

Patient was monitored on CIWA protocol with diazepam and scored 
for agitation, anxiety, tremors, and sweating. Patient was also 
noted to be confused, confabulating and with gait ataxia during 
admission. There was some concern for Wernicke encephalopathy. 
He was started on thiamine 500 IV TID for 2 days and received 
one dose of thiamine 250 IV prior to discharge home. He will 
need to continue high dose oral thiamine treatment till ___. 
His mental status and gait improved by time of discharge, and he 
was no longer experiencing signs of withdrawal. He is to 
continue daily thiamine at home.

Repeat CT head imaging showed a small amount of hemorrhage in 
the left posterior perimesencephalic cistern thought to be due 
to trauma. Neurosurgery was consulted and did not recommend 
further imaging or surgical intervention.

TRANSITIONAL ISSUES:
- Patient to take 300mg thiamine x4d until ___ followed by 
thiamine 100mg qd for one month for Wernicke encephalopathy. 
Please continue monitoring mental status. 
- Patient was started on losuvastatin (given coverage by ___ 
pharmacy), however any statin that is affordable can be 
prescribed 
- Other new medications: ASA 81, B12, multivitamin, nicotine 
patch
- Please continue counseling on alcohol use and smoking 
cessation
- Code status: Full
- Contact: ___ ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY:PRN pain 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY:PRN pain 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
2. Cyanocobalamin 1000 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0
3. Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
4. Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour 1 patch once a day Disp #*30 Patch 
Refills:*0
5. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
6. Lovastatin 20 mg ORAL DAILY 
RX *lovastatin 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
7. Thiamine 100 mg PO DAILY Duration: 30 Days 
Please take 300mg till ___ and take 100mg daily after that  
RX *thiamine HCl (vitamin B1) [Vitamin B-1] 100 mg 1 tablet(s) 
by mouth once a day Disp #*42 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Alcohol intoxication
Wernicke encephalopathy
Small hemorrhage in left posterior perimesencephalic cistern  

SECONDARY:
Alcohol abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you were found down, likely 
due to alcohol intoxication. We monitored you for signs of 
alcohol withdrawal. You were started on new multivitamins due to 
confusion that may be related to alcohol.

You also had imaging of your heart to make sure you did not have 
a heart attack that caused you to fall. The imaging was normal. 
However, your cholesterol levels were high and we started you on 
a cholesterol lowering medication.

Please see the attached medication list. It is very important 
that you take these medication daily, especially the thiamine. 
You will need to take 300mg thiamine (3 pills starting ___ till 
___ and then take 100mg daily for 1 month. Please make sure 
you establish care with your PCP for ongoing management of your 
medical conditions. 

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___